US05426119
5-(4-(2-(4-Fluorobenzenesulphonylamino)ethyl)phenyl)-5-(3-pyridyl)pentanoic acid
Prepared analogously to Example 10e from 5-(4-(2-aminoethyl)phenyl)-5-(3-pyridyl)pentanoic acid and 4-fluorobenzenesulphonic acid chloride.

reactant | 5-(4-(2-aminoethyl)phenyl)-5-(3-pyridyl)pentanoic acid | NCCC1=CC=C(C=C1)C(CCCC(=O)O)C=1C=NC=CC1 | C18H22N2O2
reactant | 4-fluorobenzenesulphonic acid chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 5-(4-(2-(4-Fluorobenzenesulphonylamino)ethyl)phenyl)-5-(3-pyridyl)pentanoic acid | FC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)C(CCCC(=O)O)C=1C=NC=CC1 | C24H25FN2O4S
